US09388161B2
Acetyl chloride (0.21 mL, 3.02 mmol) was added dropwise to a 0° C. solution of (S)-6-bromo-5-cyclobutoxy-7,8-difluoro-2-methyl-1,2,3,4-tetrahydroquinoline (1.0 g, 3.02 mmol) in dichloromethane (20 mL) and pyridine (0.6 mL), and the resulting solution was allowed to stir and warm to room temperature overnight. The reaction mixture was diluted with dichloromethane (40 mL), washed with 1 N hydrochloric acid (40 mL) and brine (40 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to afford (S)-1-(6-bromo-5-cyclobutoxy-7,8-difluoro-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (1.19 g, 99%) as yellow oil. MS (ESI, pos. ion) m/z 374, 376 [M+H]+.

reactant | Acetyl chloride | 3.02 mmol, 0.21 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-6-bromo-5-cyclobutoxy-7,8-difluoro-2-methyl-1,2,3,4-tetrahydroquinoline | 3.02 mmol, 1.0 g | BrC=1C(=C2CC[C@@H](NC2=C(C1F)F)C)OC1CCC1 | C14H16BrF2NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.6 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (S)-1-(6-bromo-5-cyclobutoxy-7,8-difluoro-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 1.19 g, 99% | BrC=1C(=C2CC[C@@H](N(C2=C(C1F)F)C(C)=O)C)OC1CCC1 | C16H18BrF2NO2
